US07253174B2
2-Chloro-6-[(2,2-dimethyl-propyl)-methyl-amino]-5-fluoro-nicotinonitrile
A solution of 2,6-dichloro-3-cyano-5-fluoropyridine (1.0 g, 5.23 mmol), N-methyl-neopentylamine hydrochloride (830 mg, 6.0 mmol) and triethylamine (1.6 mL) in acetonitrile (20 mL) was stirred at room temp for 4 hours. Then volatiles were removed in vacuo and the residue was partitioned between ethyl acetate and water. The organic layer was dried (sodium sulfate) and concentrated in vacuo to afford the product (1.11 g, 83%). C12H15ClFN3 MS m/e=256 (M+H).

reactant | 2,6-dichloro-3-cyano-5-fluoropyridine | 5.23 mmol, 1.0 g | ClC1=NC(=C(C=C1C#N)F)Cl | C6HCl2FN2
reactant | N-methyl-neopentylamine hydrochloride | 6.0 mmol, 830 mg | Cl.CNCC(C)(C)C
reactant | triethylamine | 1.6 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-Chloro-6-[(2,2-dimethyl-propyl)-methyl-amino]-5-fluoro-nicotinonitrile | 1.11 g, 83% | ClC1=C(C#N)C=C(C(=N1)N(C)CC(C)(C)C)F | C12H15ClFN3
